US07625880B2
Bromotrimethylsilane (15.3 mL, 0.116 mol) was added dropwise to 4-fluorophenyl-phosphonic acid diethyl ester (8.95 g, 38.58 mmol) stirred in a reaction flask chilled to 0° C. The resulting solution was allowed to warm to ambient temperature and stirred for an additional hour. The mixture was then concentrated by rotary evaporation yielding crude 4-fluorophenyl-phosphonic acid bis(trimethylsilyl) ester which was used in the next step without further purification.

reactant | Bromotrimethylsilane | 0.116 mol, 15.3 mL | Br[Si](C)(C)C | C3H9BrSi
reactant | 4-fluorophenyl-phosphonic acid diethyl ester | 38.58 mmol, 8.95 g | C(C)OP(OCC)(=O)C1=CC=C(C=C1)F | C10H14FO3P
product | 4-fluorophenyl-phosphonic acid bis(trimethylsilyl) ester | C[Si](C)(C)OP(O[Si](C)(C)C)(=O)C1=CC=C(C=C1)F | C12H22FO3PSi2
